US07968715B2
5 mmol of 1-amino phenanthren-2-thiol was added to 20 mL of water, and 20 mg of sodium dodecylsulfate was added while agitating to obtain a uniform mixture. 7.5 mmol of formic anhydride was added for 5 minutes. A precipitation product was obtained in 5-10 minutes. The precipitation product was filtrated and rinsed with 1 ml of water twice followed by drying under vacuum. A non-precipitated reaction mixture was extracted with 25 ml of ethyl acetate twice. The separated organic layer was dried with anhydrous sodium sulfate, and a solvent was removed using a rotatary evaporator under a reduced pressure to obtain phenanthrothiazole at a yield of 69%.

reactant | 1-amino phenanthren-2-thiol | 5 mmol | NC1=C(C=CC=2C3=CC=CC=C3C=CC12)S | C14H11NS
reactant | sodium dodecylsulfate | 20 mg | C(CCCCCCCCCCC)OS(=O)(=O)[O-].[Na+]
reactant | formic anhydride | 7.5 mmol | C(=O)OC=O | C2H2O3
solvent | water | 20 mL | O | H2O
product | phenanthrothiazole | yield of 69% | S1C=NC2=C1C=CC=1C=3C=CC=CC3C=CC12 | C15H9NS
